Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[CH:3]([c:4]1[cH:5][c:6]([F:7])[cH:8][c:9]([F:10])[cH:11]1)[CH:12]1[CH2:13][N:14]([CH:15]([c:16]2[cH:17][cH:18][c:19]([Cl:20])[cH:21][cH:22]2)[c:23]2[cH:24][cH:25][c:26]([Cl:27])[cH:28][cH:29]2)[CH2:30]1.[CH3:31][NH2:32]>>[C:1](=[O:2])([CH:3]([c:4]1[cH:5][c:6]([F:7])[cH:8][c:9]([F:10])[cH:11]1)[CH:12]1[CH2:13][N:14]([CH:15]([c:16]2[cH:17][cH:18][c:19]([Cl:20])[cH:21][cH:22]2)[c:23]2[cH:24][cH:25][c:26]([Cl:27])[cH:28][cH:29]2)[CH2:30]1)[NH:32][CH3:31],[OH:101][C:1](=[O:2])[CH:3]([c:4]1[cH:5][c:6]([F:7])[cH:8][c:9]([F:10])[cH:11]1)[CH:12]1[CH2:13][N:14]([CH:15]([c:16]2[cH:17][cH:18][c:19]([Cl:20])[cH:21][cH:22]2)[c:23]2[cH:24][cH:25][c:26]([Cl:27])[cH:28][cH:29]2)[CH2:30]1.[CH3:31][NH2:32].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH:3]([c:4]1[cH:5][c:6]([F:7])[cH:8][c:9]([F:10])[cH:11]1)[CH:12]1[CH2:13][N:14]([CH:15]([c:16]2[cH:17][cH:18][c:19]([Cl:20])[cH:21][cH:22]2)[c:23]2[cH:24][cH:25][c:26]([Cl:27])[cH:28][cH:29]2)[CH2:30]1)[NH:32][CH3:31],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (32, 1), ([1, 2], 2), (303, 32.1), ([32.1, 32], 32), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][nH:5][c:6]2[cH:7][cH:8][cH:9][cH:10][c:11]12.[CH3:12][CH2:13][O:14][C:15](=[O:16])[CH2:17][c:18]1[cH:19][cH:20][c:21]([NH2:22])[c:23]([Cl:24])[cH:25]1>>[C:1](=[O:2])([c:3]1[cH:4][nH:5][c:6]2[cH:7][cH:8][cH:9][cH:10][c:11]12)[NH:22][c:21]1[cH:20][cH:19][c:18]([CH2:17][C:15]([O:14][CH2:13][CH3:12])=[O:16])[cH:25][c:23]1[Cl:24],[CH3:12][CH2:13][O:14][C:15](=[O:16])[CH2:17][c:18]1[cH:19][cH:20][c:21]([NH2:22])[c:23]([Cl:24])[cH:25]1.[OH:101][C:1](=[O:2])[c:3]1[cH:4][nH:5][c:6]2[cH:7][cH:8][cH:9][cH:10][c:11]12.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][nH:5][c:6]2[cH:7][cH:8][cH:9][cH:10][c:11]12)[NH:22][c:21]1[cH:20][cH:19][c:18]([CH2:17][C:15]([O:14][CH2:13][CH3:12])=[O:16])[cH:25][c:23]1[Cl:24],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (22, 1), ([1, 2], 2), (303, 22.1), ([22.1, 22], 22), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](/[CH:2]=[CH:3]/[CH2:4][O:5][Si:6]([C:7]([CH3:8])([CH3:9])[CH3:10])([CH3:11])[CH3:12])=[O:13].[O:14]=[C:15]1[NH:16][C@@H:17]([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[CH2:24][O:25]1>>[C:1](/[CH:2]=[CH:3]/[CH2:4][O:5][Si:6]([C:7]([CH3:8])([CH3:9])[CH3:10])([CH3:11])[CH3:12])(=[O:13])[N:16]1[C:15](=[O:14])[O:25][CH2:24][C@@H:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,[OH:101][C:1](/[CH:2]=[CH:3]/[CH2:4][O:5][Si:6]([C:7]([CH3:8])([CH3:9])[CH3:10])([CH3:11])[CH3:12])=[O:13].[O:14]=[C:15]1[NH:16][C@@H:17]([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[CH2:24][O:25]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](/[CH:2]=[CH:3]/[CH2:4][O:5][Si:6]([C:7]([CH3:8])([CH3:9])[CH3:10])([CH3:11])[CH3:12])(=[O:13])[N:16]1[C:15](=[O:14])[O:25][CH2:24][C@@H:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (16, 1), ([1, 13], 13), (303, 16.1), ([16.1, 16], 16), (13, [13, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:2][C@@H:3]([CH2:4][Cl:5])[c:6]2[c:7]1[cH:8][c:9]([OH:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]21>>[NH:1]1[CH2:2][C@@H:3]([CH2:4][Cl:5])[c:6]2[c:7]1[cH:8][c:9]([OH:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]21,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][C@@H:3]([CH2:4][Cl:5])[c:6]2[c:7]1[cH:8][c:9]([OH:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]21.[H+:301]>>[NH:1]1[CH2:2][C@@H:3]([CH2:4][Cl:5])[c:6]2[c:7]1[cH:8][c:9]([OH:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]21,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
